** Sums: sums the input signals (with a gain) and outputs it
*
*                    ________
*  input1 >-------->|⛌ g1    |
*  input2 >-------->|⛌ g2    |
*  input3 >-------->|⛌ g3    |-------> output
*    :              |   :    |
*    :              |   :    |

.subckt SUM2 input1 input2 output   g1=1 g2=1
    Bout    output      gnd     v={g1*v(input1)+g2*v(input2)}
.ends SUM2

.subckt SUM3 input1 input2 input3 output    g1=1 g2=1 g3=1
    Bout    output      gnd     v={g1*v(input1)+g2*v(input2)+g3*v(input3)}
.ends SUM3

.subckt SUM4 input1 input2 input3 input4 output   g1=1 g2=1 g3=1 g4=1
    Bout    output      gnd     v={g1*v(input1)+g2*v(input2)+g3*v(input3)+g4*v(input4)}
.ends SUM4

.subckt SUM5 input1 input2 input3 input4 input5 output   g1=1 g2=1 g3=1 g4=1 g5=1
    Bout    output      gnd     v={g1*v(input1)+g2*v(input2)+g3*v(input3)+g4*v(input4)+g5*v(input5)}
.ends SUM5